US05110956
2-[{2-(1,3-Benzodioxol-5-yl)-1-methylethyl}dithio]ethanol
5.0 g of the title compound was prepared from 8.4 g of 2-(1,3-benzodioxol-5-yl)-1-methylethanethiol and 2.24 g of.2-mercaptoethanol as a colorless oil according to the same procedure as that described in Example 1.

reactant | 2-(1,3-benzodioxol-5-yl)-1-methylethanethiol | 8.4 g | O1COC2=C1C=CC(=C2)CC(S)C | C10H12O2S
reactant | 2-mercaptoethanol | SCCO | C2H6OS
product | 2-[{2-(1,3-Benzodioxol-5-yl)-1-methylethyl}dithio]ethanol | 5.0 g | O1COC2=C1C=CC(=C2)CC(C)SSCCO | C12H16O3S2
